US05801170
N-[5-(2-Dimethylaminoethoxy)-2-chlorophenyl]-2'-methyl-4'-(5-methyl-1,2,4-oxadiazol-3-yl)biphenyl-4-carboxamide (E27)
A solution of N-[3-(2dimethylaminoethoxy)phenyl]-2'-methyl-4'-(5-methyl-1,2,4-oxadiazol-3-yl)biphenyl-4-carboxamide (E13) (200 mg) in dichloromethane (10 ml) was treated with N-chlorosuccinimide (64 mg) and the mixture stirred at room temperature overnight. The reaction mixture was evaporated under reduced pressure, and the residue triturated with diethyl ether and the precipitated succinimide was removed by filtration. The filtrate was evaporated under reduced pressure and flash column chromatographed on silica gel, eluting with dichloromethane, then chloroform and methanol to give the title compound. (77 mg, 36%). Mp 101°-2° C.

reactant | N-[3-(2dimethylaminoethoxy)phenyl]-2'-methyl-4'-(5-methyl-1,2,4-oxadiazol-3-yl)biphenyl-4-carboxamide | 200 mg | CN(CCOC=1C=C(C=CC1)NC(=O)C1=CC=C(C=C1)C1=C(C=C(C=C1)C1=NOC(=N1)C)C)C | C27H28N4O3
reactant | N-chlorosuccinimide | 64 mg | ClN1C(CCC1=O)=O | C4H4ClNO2
solvent | dichloromethane | 10 ml | ClCCl | CH2Cl2
product | N-[5-(2-Dimethylaminoethoxy)-2-chlorophenyl]-2'-methyl-4'-(5-methyl-1,2,4-oxadiazol-3-yl)biphenyl-4-carboxamide | CN(CCOC=1C=CC(=C(C1)NC(=O)C1=CC=C(C=C1)C1=C(C=C(C=C1)C1=NOC(=N1)C)C)Cl)C | C27H27ClN4O3
